US04271172
A solution of 113 g (0.466 mole) of ethyl 8-methyl-1-thia-3,8-diazaspiro-[4.5]dec-2-ene-4-carboxylate in 5 liters of approximately 6 N hydrochloric acid is heated under reflux for 4 hours. The solution is decolorized with activated charcoal and evaporated to dryness. Traces of water are eliminated by entrainment with benzene and isopropanol. The residue is then dissolved in 1.5 liter of ethanol, concentrated to a volume of approximately 400 ml and allowed to crystallize. In this way, 104.7 g of alpha-amino-4-mercapto-1-methyl-4-piperidine-acetic acid dihydrochloride is obtained; Yield: 81%; M.P. 201°-202° C. (decomposition).

reactant | ethyl 8-methyl-1-thia-3,8-diazaspiro-[4.5]dec-2-ene-4-carboxylate | 0.466 mole, 113 g | CN1CCC2(C(N=CS2)C(=O)OCC)CC1 | C11H18N2O2S
reactant | charcoal | C | CH4
reactant | hydrochloric acid | approximately 6 N, 5 liters | Cl | ClH
product | alpha-amino-4-mercapto-1-methyl-4-piperidine-acetic acid dihydrochloride | 104.7 g, Yield: 81% | Cl.Cl.NC(C(=O)O)C1(CCN(CC1)C)S | InChI=1S/C8H16N2O2S.2ClH/c1-10-4-2-8(13,3-5-10)6(9)7(11)12;;/h6,13H,2-5,9H2,1H3,(H,11,12);2*1H
